US08492582B2
Trifluoroacetic acid (5 mL) was added to the obtained tert-butyl 4-phenyl-2-(4-phenylpyridine-2-carboxamido)benzoate (64 mg), followed by stirring at room temperature for 3 hours. The solvent was evaporated under reduced pressure, and ethyl acetate and water were added to the obtained residue. After adjusting the pH to 6.5 with a saturated aqueous solution of sodium bicarbonate, the organic layer was separated, washed with water and a saturated aqueous solution of sodium chloride sequentially, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, and the solid substance was collected by filtration to obtain 50 mg of 4-phenyl-2-(4-phenylpyridine-2-carboxamido)benzoic acid as a white solid.

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-phenyl-2-(4-phenylpyridine-2-carboxamido)benzoate | 64 mg | C1(=CC=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C1=NC=CC(=C1)C1=CC=CC=C1 | C29H26N2O3
product | 4-phenyl-2-(4-phenylpyridine-2-carboxamido)benzoic acid | 50 mg | C1(=CC=CC=C1)C1=CC(=C(C(=O)O)C=C1)NC(=O)C1=NC=CC(=C1)C1=CC=CC=C1 | C25H18N2O3
